US07517873B2
To a solution of 2.03 g (0.00842 mole) of 5-nitro-2-pyridin-4-yl-benzooxazole (R. D. Haugwitz, et al., J. Med. Chem., 1982, 25, 969-74.) in methanol (150 mL) was added 0.2 g of 10% palladium on carbon catalyst. The mixture was hydrogenated on a Parr hydrogenator at 50 psi for 2 hours. The catalyst was filtered off and the solution was concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (100:0-80:20), to give 0.5 g of 2-pyridin-4-yl-benzooxazol-5-ylamine. HRMS (ES+) m/z Calcd for C12H9N3O+H [(M+H)+]: 212.0819. Found: 212.0818.

reactant | 5-nitro-2-pyridin-4-yl-benzooxazole | 0.00842 mole, 2.03 g | [N+](=O)([O-])C=1C=CC2=C(N=C(O2)C2=CC=NC=C2)C1 | C12H7N3O3
solvent | methanol | 150 mL | CO | CH4O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | 2-pyridin-4-yl-benzooxazol-5-ylamine | 0.5 g | N1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)N | C12H9N3O
